US08252802B2
Sodium meta-periodate (64.7 g, 302.69 mmol) was added in one portion to (R)-4-(2-chloro-6-(methylthiomethyl)pyrimidin-4-yl)-3-methylmorpholine (82.87 g, 302.69 mmol) in water (500 ml), EtOAc (1000 ml) and MeOH (500 ml). The resulting solution was stirred at 20° C. for 16 hours. Sodium metabisulfite (50 g) was added and the mixture stirred for 30 minutes. The reaction mixture was filtered and then partially evaporated to remove the MeOH. The organic layer was separated, dried over MgSO4, filtered and then evaporated. The aqueous layer was washed with DCM (3×500 ml). The organic layers were combined, dried over MgSO4, filtered and then evaporated. The residues were combined and dissolved in DCM (400 ml) and purified by flash chromatography on silica, eluting with a gradient of 0 to 5% MeOH in DCM. Fractions containing product were evaporated and the residue was dissolved in DCM (400 ml) and then divided into four 450 ml bottles. An aluminium foil cap was placed over the top of each bottle and a few holes made in each cap. The bottles were placed in pairs in a large dish containing Et2O (1000 ml), and then covered and sealed with a second glass dish and left for 11 days. The resultant white needles were collected by filtration and dried under vacuum. The crystals were dissolved in DCM (200 ml) and placed into a 450 ml bottle. An aluminium foil cap was placed over the top of the bottle and a few holes made in the cap. The bottle was placed in a large dish containing Et2O (1500 ml) and then covered and sealed with a second glass dish and left for 6 days. The resultant crystals were collected by filtration and dried under vacuum to afford (R)-4-(2-chloro-6-((R)-methylsulfinylmethyl)pyrimidin-4-yl)-3-methylmorpholine (16.53 g, 19%); 1H NMR (400 MHz, CDCl3) 1.33 (3H, d), 2.61 (3H, s), 3.29 (1H, td), 3.53 (1H, td), 3.68 (1H, dd), 3.76 (2H, dd), 3.95 (1H, d), 3.99 (1H, dd), 4.02 (1H, s), 4.31 (1H, s), 6.41 (1H, s). Chiral HPLC: (HP1100 System 5, 20 μm Chiralpak AD-H (250 mm×4.6 mm) column eluting with Hexane/EtOH/TEA 50/50/0.1) Rf, 12.192 98.2%.

reactant | Sodium meta-periodate | 302.69 mmol, 64.7 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | (R)-4-(2-chloro-6-(methylthiomethyl)pyrimidin-4-yl)-3-methylmorpholine | 302.69 mmol, 82.87 g | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)CSC | C11H16ClN3OS
reactant | Sodium metabisulfite | 50 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 500 ml | O | H2O
solvent | EtOAc | 1000 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 500 ml | CO | CH4O
product | (R)-4-(2-chloro-6-((R)-methylsulfinylmethyl)pyrimidin-4-yl)-3-methylmorpholine | 16.53 g, 19% | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)C[S@](=O)C | C11H16ClN3O2S
